US05556864
38(a) 4-{2-[2-(3-Methoxyphenyl)ethyl]phenoxy}-1-methylpiperidine
A solution of 482 mg of 1-t-butoxycarbonyl-4-{2-[2-(3-methoxylphenyl)ethyl]phenoxy]piperidine (prepared in a similar manner to that described in Example 37) in 5 ml of tetrahydrofuran was added dropwise to a dispersion of 44.5 mg of lithium aluminum hydride in 5 ml of tetrahydrofuran, whilst stirring. After the addition was complete, the reaction mixture was heated under reflux for 1 hour and then cooled. Sufficient sodium sulfate decahydrate was then added to the reaction mixture, in order to decompose any excess of the hydride, after which the mixture was stirred for about 30 minutes. Insoluble materials were filtered off, and then the filtrate was freed from the solvent by distillation under reduced pressure. The resulting oily residue was purified by column chromatography through silica gel, using a 10:1 by volume mixture of methylene chloride and methanol as the eluent, to give 220 mg (yield 57%) of the title compound as a colorless oil.

reactant | 1-t-butoxycarbonyl-4-{2-[2-(3-methoxylphenyl)ethyl]phenoxy]piperidine | 482 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=CC=C1)CCC1=CC(=CC=C1)OC | C25H33NO4
reactant | lithium aluminum hydride | 44.5 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydride | [H-]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-{2-[2-(3-Methoxyphenyl)ethyl]phenoxy}-1-methylpiperidine | 220 mg, yield 57% | COC=1C=C(C=CC1)CCC1=C(OC2CCN(CC2)C)C=CC=C1 | C21H27NO2
